US04166115
7-[2-Methoxyimino-2-(3-hydroxyphenyl)acetamido]-3-carbamoyloxymethyl-3-cephem-4-carboxylic acid (syn isomer) (1.98 g.) was suspended in water (15 ml.) and dissolved by adding sodium bicarbonate (0.35 g.) with stirring at ambient temperature. The solution was lyophilized and dried to give sodium 7-[2-methoxyimino-2-(3-hydroxyphenyl)acetamido]-3-carbamoyloxymethyl-3-cephem-4-carboxylate (syn isomer) (1.9 g.).

reactant | 7-[2-Methoxyimino-2-(3-hydroxyphenyl)acetamido]-3-carbamoyloxymethyl-3-cephem-4-carboxylic acid | 1.98 g | CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)COC(N)=O)C(=O)O)C1=O)C1=CC(=CC=C1)O | C18H18N4O8S
reactant | sodium bicarbonate | 0.35 g | C([O-])(O)=O.[Na+]
solvent | water | 15 ml | O | H2O
product | sodium 7-[2-methoxyimino-2-(3-hydroxyphenyl)acetamido]-3-carbamoyloxymethyl-3-cephem-4-carboxylate | 1.9 g | CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)COC(N)=O)C(=O)[O-])C1=O)C1=CC(=CC=C1)O.[Na+] | InChI=1S/C18H18N4O8S.Na/c1-29-21-11(8-3-2-4-10(23)5-8)14(24)20-12-15(25)22-13(17(26)27)9(6-30-18(19)28)7-31-16(12)22;/h2-5,12,16,23H,6-7H2,1H3,(H2,19,28)(H,20,24)(H,26,27);/q;+1/p-1/t12?,16-;/m1./s1
